US06903120B2
1-(3-Trifluoromethanesulfonyl-phenyl)-piperazine
Beginning with 3-bromo-trifluoromethanesulfonyl-benzene and piperazine, the titled cmp was recovered by the procedure described in Preparation 17. MS m/z (rel. intensity, 70 eV) 294 (M+, 22), 252 (bp), 119 (32), 104 (10), 56 (15). (45).

reactant | 3-bromo-trifluoromethanesulfonyl-benzene | BrC=1C=C(C=CC1)S(=O)(=O)C(F)(F)F | C7H4BrF3O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(3-Trifluoromethanesulfonyl-phenyl)-piperazine | FC(S(=O)(=O)C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2O2S
